US08058432B2
Step 2: Synthesis of Nα-(2,6-dichlorobenzoyl)-4-{1-methyl-6-(N-formyl-N-methyl-aminomethyl)-quinazoline-2,4[1H,3H]-dion-3-yl}-L-phenylalanine isopropyl ester
To 17.1 g of Nα-(2,6-dichlorobenzoyl)-4-{2-ethoxycarbonylamino-5-(N-formyl-N-methyl-aminomethyl)-benzoylamino}-L-phenylalanine isopropyl ester prepared in the foregoing step 1, there were added 68 mL of N,N-dimethylformamide, 6.8 mL of 2-propanol and 7.55 g of potassium carbonate, and then 5.89 mL of methyl p-toluene-sulfonate was added to the resulting mixture, followed by the stirring of the mixture at room temperature overnight. After confirming the completion of the reaction by HPLC, 6.25 mL of acetic acid was added to quench the mixture and then 84 mL of water was dropwise added thereto to separate out a solid material. The separated solid was isolated through filtration under reduced pressure, washed with 82 mL of water and then dried under reduced pressure to thus give 15.80 g of the intended compound as a white crystalline solid. The physical properties of the 4-amino-Nα-(2,6-dichlorobenzoyl)-L-phenylalanine methyl ester and 12 mL of N,N-dimethylformamide, and the resulting mixture was stirred overnight. Subsequently, 48 mL of methanol was dropwise added, the resulting mixture was stirred at 10° C. overnight and then the solid separated from the mixture was isolated through filtration under reduced pressure. The solid was then washed with 8 mL of methanol and dried at 70° C. for 5 hours under reduced pressure to thus give 5.50 g of the title compound as a pale yellow solid.

reactant | Nα-(2,6-dichlorobenzoyl)-4-{2-ethoxycarbonylamino-5-(N-formyl-N-methyl-aminomethyl)-benzoylamino}-L-phenylalanine isopropyl ester | 17.1 g | C(C)(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)CN(C)C=O)NC(=O)OCC)=O)=O | C32H34Cl2N4O7
reactant | N,N-dimethylformamide | 68 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 7.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl p-toluene-sulfonate | 5.89 mL | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
solvent | acetic acid | 6.25 mL | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 6.8 mL | CC(C)O | C3H8O
product | Nα-(2,6-dichlorobenzoyl)-4-{1-methyl-6-(N-formyl-N-methyl-aminomethyl)-quinazoline-2,4[1H,3H]-dion-3-yl}-L-phenylalanine isopropyl ester | C(C)(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)N1C(N(C2=CC=C(C=C2C1=O)CN(C)C=O)C)=O)=O | C31H30Cl2N4O6
